US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-dimethylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide was reacted with dimethylamine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 26.1, 26.2, 35.9, 43.2, 47.9, 53.1, 59.3, 69.9, 102.9, 105.4, 112.4, 112.6, 131.7, 137.5, 169.2; MS m/z 436.2 (M+1),

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-oxo-ethyl)-1H-imidazol-4-yl]-amide | CC(C=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H24F2N4O3
reactant | dimethylamine | CNC | C2H7N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-dimethylamino-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | CN(CC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C | C22H31F2N5O2
